US20010014677A1
Ethyl 3-(4-[2-(6-carbamoyl-1-methyl-1H-3-indolyl)-2-(1,3-benzodioxol-5-yl)acetyl] sulfamoylphenyl)propanoate
Ethyl (E)-3-(4-[2-(6-carbamoyl-1-methyl-1H-3-indolyl)-2-(1,3-benzodioxol-5-yl)acetyl] sulfamoylphenyl)-2-propenoate (the compound of Example 41, 0.24 g, 0.40 mmol) was dissolved in ethanol (5ml) and 5% palladium-on-carbon (24 mg) was added. The mixture was placed in a pressure vessel and a hydrogen pressure of 345 kPa (50 psi) was maintained for 48 h. The reaction mixture was filtered through Arbocel™ and concentrated in vacuo. Flash column chromatography (elution with 5% methanol/90% dichloromethane) gave the product (70 mg). 1H NMR (400 MHz, CD3OD): δ=1.20 (t, 3H), 2.60 (t, 2H), 3.00 (t, 2H), 3.75 (s, 3H), 4.05 (q, 2H), 5.05 (s, 1H), 5.85 (s, 2H), 6.60 (s, 1H), 6.70 (s, 2H), 6.90 (s, 1H), 7.20 (d, 1H), 7.30 (d, 2H), 7.40 (d, 1H), 7.80 (d, 2H), 7.90 (s, 1H). LRMS (APCI): 591.9 (MH−.

reactant | Ethyl (E)-3-(4-[2-(6-carbamoyl-1-methyl-1H-3-indolyl)-2-(1,3-benzodioxol-5-yl)acetyl] sulfamoylphenyl)-2-propenoate | C(N)(=O)C1=CC=C2C(=CN(C2=C1)C)C(C(=O)NS(=O)(=O)C1=CC=C(C=C1)/C=C/C(=O)OCC)C1=CC2=C(OCO2)C=C1 | C30H27N3O8S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 24 mg | [Pd] | Pd
product | Ethyl 3-(4-[2-(6-carbamoyl-1-methyl-1H-3-indolyl)-2-(1,3-benzodioxol-5-yl)acetyl] sulfamoylphenyl)propanoate | 70 mg | C(N)(=O)C1=CC=C2C(=CN(C2=C1)C)C(C(=O)NS(=O)(=O)C1=CC=C(C=C1)CCC(=O)OCC)C1=CC2=C(OCO2)C=C1 | C30H29N3O8S
